US05104888
6-Hydroxy-2,5,7,8-tetramethyl-2-(5-nitropyridin-2-yloxymethyl)chroman (Step A3, Deprotection)
1 g of 10% w/v aqueous sulfuric acid was added to 45 ml of acetic acid containing 5.2 g of 6-methoxymethoxy-2,5,7,8-tetramethyl-2-(5-nitropyridin-2-yloxymethyl)chroman prepared as described in Preparation 34), and the resulting mixture was heated at 55°-58° C. for 15 minutes. The reaction mixture was cooled, poured into a mixture of 75 g of sodium bicarbonate and 75 g of ice, and then extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue gave the title compound as a light-brown oil.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 6-methoxymethoxy-2,5,7,8-tetramethyl-2-(5-nitropyridin-2-yloxymethyl)chroman | COCOC=1C(=C2CCC(OC2=C(C1C)C)(COC1=NC=C(C=C1)[N+](=O)[O-])C)C | C21H26N2O6
reactant | sodium bicarbonate | 75 g | C([O-])(O)=O.[Na+]
solvent | acetic acid | 45 ml, 5.2 g | C(C)(=O)O | C2H4O2
product | 6-Hydroxy-2,5,7,8-tetramethyl-2-(5-nitropyridin-2-yloxymethyl)chroman | OC=1C(=C2CCC(OC2=C(C1C)C)(COC1=NC=C(C=C1)[N+](=O)[O-])C)C | C19H22N2O5
